US05604227
d. Dimethyl 4-hydroxy-5-methoxyquinoline-2,3-dicarboxylate
A solution of methyl 2-amino-6-methoxybenzoate ((1.30 g, 7.17 mM) and dimethyl acetylenedicarboxylate (1.17 g, 8.23 mM) in t-butanol (11 mL) was refluxed under a nitrogen atmosphere for 4 hr. The reaction mixture was cooled to room temperature, potassium t-butoxide (0.92 g, 8.23 mM) was added, and the resulting mixture was heated to 90° C. for 1.5 hr during which solids precipitated out of solution. The mixture was cooled to room temperature, filtered and the collected solids were dissolved in water. The resulting solution was acidified with 1N H2SO4 to form a light tan precipitate. The solids were collected, filtered, washed with water and air dried to provide the desired compound (1.35 g, 65%) as a tan solid. A 0.28 g portion of this material was recrystallized from ethyl acetate to provide an analytical sample (0.24 g) of the title compound as a white solid, mp 184°-186° C.; MS(CI): 292 (M+H). Analysis for C14H13NO6 ·0.2 H2O: Calculated: C, 57.03; H, 4.58; N, 4.75 Found: C, 56.99; H, 4.40; N, 4.70

reactant | methyl 2-amino-6-methoxybenzoate | NC1=C(C(=O)OC)C(=CC=C1)OC | C9H11NO3
reactant | dimethyl acetylenedicarboxylate | 8.23 mM, 1.17 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | potassium t-butoxide | 8.23 mM, 0.92 g | CC(C)([O-])C.[K+]
solvent | t-butanol | 11 mL | C(C)(C)(C)O | C4H10O
product | Dimethyl 4-hydroxy-5-methoxyquinoline-2,3-dicarboxylate | 1.35 g, 65% | OC1=C(C(=NC2=CC=CC(=C12)OC)C(=O)OC)C(=O)OC | C14H13NO6
